.START
..device	value	footprint	quantity	refdes
7.5mm SCREW TERMINAL	unknown	3terminal_screw_block	9	INPUT OUT1 OUT2 OUT3 OUT4 OUT5 OUT6 OUT7 OUT8
ATmega48	unknown	DIP28N	2	MCU1 MCU2
CAPACITOR	22pF	ACY200	2	C2 C3
CONNECTOR_5	unknown	usb-micro-smt	1	USB
CRYSTAL	12Mhz	HC49	1	U1
H11AA1	unknown	DIP6	1	OC9
HEADER6	unknown	HEADER6_2	2	H1 H2
LED	unknown	LED5	3	LED1 LED2 LED3
MOC3020	unknown	DIP6	8	OC1 OC2 OC3 OC4 OC5 OC6 OC7 OC8
POLARIZED_CAPACITOR	10uF	RCY100P	2	C1 C4
RESISTOR	10K	R025	1	R16
RESISTOR	1K	R025	3	R7 R8 R9
RESISTOR	1k5R	R025	1	R1
RESISTOR	360R	R025	11	R11 R13 R17 R18 R23 R24 R27 R28 R30 R4 R5
RESISTOR	470R	R025	8	R10 R14 R15 R19 R22 R25 R26 R29
RESISTOR	4K7	R025	2	R12 R6
RESISTOR	68R	R025	2	R2 R3
RESISTOR (3W)	22K	ACY800	2	R20 R21
TRIAC	BTA06-600B	TO220SW	8	D1 D2 D3 D4 D5 D6 D7 D8
ZENER_DIODE	3.6v	R025	2	Z1 Z2
.END
